US06555563B1
1-[4-(Methylthio)phenyl]-2-[2-(methylthio)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-1H-imidazole
A mixture of 4-hydroxy-1-[4-(methylthio)phenyl]-2-[2-(methylthio)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-4,5-dihydro-1H-imidazole (0.52 g, 1.28 mmol) and p-toluenesulfonic acid monohydrate (0.1 g) in toluene (20 mL) was heated to reflux for 1 hour. The reaction mixture was cooled to room temperature and the solvent was removed in vacuo. The crude residue was redissolved in ethyl acetate and washed with water, aqueous sodium bicarbonate and brine. After drying (Na2SO4), filtration, and concentration in vacuo, the crude mixture was purified by chromatography on silica gel using hexane/ethyl acetate to give the title product (0.4 g, 80%) as a white solid; 1H NMR δ (DMSO-d6) 8.38 (1H, s), 7.51 (2H, d, J=8.7 Hz), 7.38 (2H, d, J=8.3 Hz), 2.76 (3H, s), 2.55 (3H, s); 13C NMR δ (DMSO-d6) 168.8, 157.4, 140.4, 138.0, 133.0, 131.0(q), 127.2, 126.4, 125.7, 122.0(q), 16.4, 14.4.

reactant | 4-hydroxy-1-[4-(methylthio)phenyl]-2-[2-(methylthio)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-4,5-dihydro-1H-imidazole | 1.28 mmol, 0.52 g | OC1(N=C(N(C1)C1=CC=C(C=C1)SC)C1=NN=C(S1)SC)C(F)(F)F | C14H13F3N4OS3
reactant | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(Methylthio)phenyl]-2-[2-(methylthio)-1,3,4-thiadiazol-5-yl]-4-(trifluoromethyl)-1H-imidazole | 0.4 g, 80% | CSC1=CC=C(C=C1)N1C(=NC(=C1)C(F)(F)F)C1=NN=C(S1)SC | C14H11F3N4S3
